US04064347
2,7-bis[5-(4-methylpiperidino)valeryl]fluorene
Following the procedure of Example 7, 20.2g (0.05 mole) of 2,7-bis(5-chlorovaleryl)fluorene, prepared in Example 2, and 39.6g (0.4 mole) of 4-methylpiperidine were reacted to give the desired product which was recrystallized three times from chloroform-acetone. M.P. 143°-144.5° C, λmaxCHCl3 329, E1cm1% 731.

reactant | 2,7-bis(5-chlorovaleryl)fluorene | 0.05 mole, 20.2g | ClCCCCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCCCCl)=O | C23H24Cl2O2
reactant | 4-methylpiperidine | 0.4 mole, 39.6g | CC1CCNCC1 | C6H13N
product | 2,7-bis[5-(4-methylpiperidino)valeryl]fluorene | CC1CCN(CC1)CCCCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCCCN1CCC(CC1)C)=O | C35H48N2O2
